US04218458
A mixture of 7 parts of 3-ethyl-4-(4-hydroxyphenyl)-1-(phenylmethyl)-1H-imidazolium bromide and 120 parts of ethanol is hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The oily residue solidifies on scratching in 2-propanone. The product is filtered off and dried, yielding 5 parts of 4-(1-ethyl-1H-imidazol-5-yl)phenol monohydrobromide.

reactant | 3-ethyl-4-(4-hydroxyphenyl)-1-(phenylmethyl)-1H-imidazolium bromide | [Br-].C(C)N1C[NH+](C=C1C1=CC=C(C=C1)O)CC1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-(1-ethyl-1H-imidazol-5-yl)phenol monohydrobromide | Br.C(C)N1C=NC=C1C1=CC=C(C=C1)O | InChI=1S/C11H12N2O.BrH/c1-2-13-8-12-7-11(13)9-3-5-10(14)6-4-9;/h3-8,14H,2H2,1H3;1H
